US06933322B2
N-[5-(2-phenyl-oxazol-4-ylmethoxy)naphthalen-2-yl]C,C,C-trifluoromethanesulfonamide
Using same procedure as above 2-phenyl-4-Chloromethyloxazole was coupled with 2-Amino-5-naphthol then reacted with triflic anhydride to provide the title compound (0.630 g, 35%) as a white solid, m.p. 195-197° C. 1H NMR (DMSO-d6, 400 MHz): δ 5.27 (s, 2H), 7.18 (d, 1H), 7.37 (d, 1H), 7.46-7.56 (m, 5H), 7.73 (s, 1H), 7.99-8.02 (d, 2H), 8.21 (d, 1H), 8.43 (s, 1H). MS [EI, m/z]: 449 [M+H]+. Anal. Calcd. for C21H15F3N2O4: C, 56.25; H, 3.37; N, 6.25. Found: C, 56.21; H, 3.24; N, 6.22.

reactant | 2-phenyl-4-Chloromethyloxazole | C1(=CC=CC=C1)C=1OC=C(N1)CCl | C10H8ClNO
reactant | 2-Amino-5-naphthol | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | N-[5-(2-phenyl-oxazol-4-ylmethoxy)naphthalen-2-yl]C,C,C-trifluoromethanesulfonamide | 0.630 g, 35% | C1(=CC=CC=C1)C=1OC=C(N1)COC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C(F)(F)F | C21H15F3N2O4S
